* Subcircuit HEF4539_sub
.subckt HEF4539_sub net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ unconnected-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ unconnected-_u1-pad16_ 
.title kicad schematic
* u19 net-_u1-pad2_ net-_u10-pad1_ d_inverter
* u20 net-_u10-pad1_ net-_u15-pad1_ d_inverter
* u23 net-_u13-pad2_ net-_u18-pad2_ d_inverter
* u22 net-_u1-pad14_ net-_u13-pad2_ d_inverter
* u25 net-_u1-pad10_ net-_u24-pad1_ d_inverter
* u27 net-_u1-pad11_ net-_u27-pad2_ d_inverter
* u31 net-_u1-pad12_ net-_u31-pad2_ d_inverter
* u21 net-_u15-pad1_ net-_u18-pad3_ net-_u17-pad1_ d_and
* u26 net-_u10-pad1_ net-_u24-pad3_ net-_u26-pad3_ d_and
* u24 net-_u24-pad1_ net-_u13-pad2_ net-_u24-pad3_ d_and
* u18 net-_u16-pad2_ net-_u18-pad2_ net-_u18-pad3_ d_and
* u13 net-_u12-pad2_ net-_u13-pad2_ net-_u13-pad3_ d_and
* u14 net-_u11-pad3_ net-_u1-pad7_ d_inverter
* u3 net-_u3-pad1_ net-_u13-pad2_ net-_u3-pad3_ d_and
* u4 net-_u10-pad1_ net-_u3-pad3_ net-_u4-pad3_ d_and
* u8 net-_u8-pad1_ net-_u18-pad2_ net-_u10-pad2_ d_and
* u17 net-_u17-pad1_ net-_u15-pad3_ net-_u11-pad1_ d_nor
* u15 net-_u15-pad1_ net-_u13-pad3_ net-_u15-pad3_ d_and
* u10 net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ d_and
* u7 net-_u10-pad3_ net-_u4-pad3_ net-_u6-pad1_ d_nor
* u6 net-_u6-pad1_ net-_u2-pad2_ net-_u11-pad2_ d_and
* u11 net-_u11-pad1_ net-_u11-pad2_ net-_u11-pad3_ d_nand
* u16 net-_u1-pad3_ net-_u16-pad2_ d_inverter
* u5 net-_u1-pad6_ net-_u3-pad1_ d_inverter
* u2 net-_u1-pad1_ net-_u2-pad2_ d_inverter
* u9 net-_u1-pad5_ net-_u8-pad1_ d_inverter
* u12 net-_u1-pad4_ net-_u12-pad2_ d_inverter
* u38 net-_u38-pad1_ net-_u36-pad3_ net-_u38-pad3_ d_nor
* u36 net-_u15-pad1_ net-_u32-pad3_ net-_u36-pad3_ d_and
* u30 net-_u10-pad1_ net-_u28-pad3_ net-_u29-pad1_ d_and
* u29 net-_u29-pad1_ net-_u26-pad3_ net-_u29-pad3_ d_nor
* u39 net-_u39-pad1_ net-_u38-pad3_ net-_u33-pad1_ d_and
* u33 net-_u33-pad1_ net-_u29-pad3_ net-_u33-pad3_ d_nand
* u34 net-_u33-pad3_ net-_u1-pad9_ d_inverter
* u40 net-_u15-pad1_ net-_u37-pad3_ net-_u38-pad1_ d_and
* u41 net-_u1-pad15_ net-_u39-pad1_ d_inverter
* u35 net-_u1-pad13_ net-_u35-pad2_ d_inverter
* u37 net-_u35-pad2_ net-_u18-pad2_ net-_u37-pad3_ d_and
* u32 net-_u31-pad2_ net-_u13-pad2_ net-_u32-pad3_ d_and
* u28 net-_u27-pad2_ net-_u18-pad2_ net-_u28-pad3_ d_and
a1 net-_u1-pad2_ net-_u10-pad1_ u19
a2 net-_u10-pad1_ net-_u15-pad1_ u20
a3 net-_u13-pad2_ net-_u18-pad2_ u23
a4 net-_u1-pad14_ net-_u13-pad2_ u22
a5 net-_u1-pad10_ net-_u24-pad1_ u25
a6 net-_u1-pad11_ net-_u27-pad2_ u27
a7 net-_u1-pad12_ net-_u31-pad2_ u31
a8 [net-_u15-pad1_ net-_u18-pad3_ ] net-_u17-pad1_ u21
a9 [net-_u10-pad1_ net-_u24-pad3_ ] net-_u26-pad3_ u26
a10 [net-_u24-pad1_ net-_u13-pad2_ ] net-_u24-pad3_ u24
a11 [net-_u16-pad2_ net-_u18-pad2_ ] net-_u18-pad3_ u18
a12 [net-_u12-pad2_ net-_u13-pad2_ ] net-_u13-pad3_ u13
a13 net-_u11-pad3_ net-_u1-pad7_ u14
a14 [net-_u3-pad1_ net-_u13-pad2_ ] net-_u3-pad3_ u3
a15 [net-_u10-pad1_ net-_u3-pad3_ ] net-_u4-pad3_ u4
a16 [net-_u8-pad1_ net-_u18-pad2_ ] net-_u10-pad2_ u8
a17 [net-_u17-pad1_ net-_u15-pad3_ ] net-_u11-pad1_ u17
a18 [net-_u15-pad1_ net-_u13-pad3_ ] net-_u15-pad3_ u15
a19 [net-_u10-pad1_ net-_u10-pad2_ ] net-_u10-pad3_ u10
a20 [net-_u10-pad3_ net-_u4-pad3_ ] net-_u6-pad1_ u7
a21 [net-_u6-pad1_ net-_u2-pad2_ ] net-_u11-pad2_ u6
a22 [net-_u11-pad1_ net-_u11-pad2_ ] net-_u11-pad3_ u11
a23 net-_u1-pad3_ net-_u16-pad2_ u16
a24 net-_u1-pad6_ net-_u3-pad1_ u5
a25 net-_u1-pad1_ net-_u2-pad2_ u2
a26 net-_u1-pad5_ net-_u8-pad1_ u9
a27 net-_u1-pad4_ net-_u12-pad2_ u12
a28 [net-_u38-pad1_ net-_u36-pad3_ ] net-_u38-pad3_ u38
a29 [net-_u15-pad1_ net-_u32-pad3_ ] net-_u36-pad3_ u36
a30 [net-_u10-pad1_ net-_u28-pad3_ ] net-_u29-pad1_ u30
a31 [net-_u29-pad1_ net-_u26-pad3_ ] net-_u29-pad3_ u29
a32 [net-_u39-pad1_ net-_u38-pad3_ ] net-_u33-pad1_ u39
a33 [net-_u33-pad1_ net-_u29-pad3_ ] net-_u33-pad3_ u33
a34 net-_u33-pad3_ net-_u1-pad9_ u34
a35 [net-_u15-pad1_ net-_u37-pad3_ ] net-_u38-pad1_ u40
a36 net-_u1-pad15_ net-_u39-pad1_ u41
a37 net-_u1-pad13_ net-_u35-pad2_ u35
a38 [net-_u35-pad2_ net-_u18-pad2_ ] net-_u37-pad3_ u37
a39 [net-_u31-pad2_ net-_u13-pad2_ ] net-_u32-pad3_ u32
a40 [net-_u27-pad2_ net-_u18-pad2_ ] net-_u28-pad3_ u28
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u19 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u20 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u23 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u22 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u25 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u27 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u31 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u21 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u26 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u24 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u18 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u13 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u14 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u3 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u4 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u8 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u17 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u15 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u10 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u7 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u6 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u11 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u16 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u5 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u9 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u12 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u38 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u36 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u30 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u29 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u39 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u33 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u34 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u40 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u41 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u35 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u37 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u32 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u28 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Control Statements

.ends HEF4539_sub